US06699873B1
2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-dithiobenzoic acid ethyl ester.
As shown in Scheme 11, hydrogen sulfide gas (˜2 mL) was condensed into a cooled (−78° C.) solution of 2.8 grams (6.8 mmol) of 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-thiobenzimidic acid ethyl ester and 13.6 mL (13.6 mmol) of 1.0 M HCl/ether in 100 mL of tetrahydrofuran. The reaction was heated to 45° C. and stirred overnight in a sealed tube. The reaction mixture was diluted with water and extracted with methylene chloride once. The organic layer was washed with brine, dried (MgSO4), filtered and evaporated to give a crude orange oil. The oil was partially purified by chromatography through a short column of silica gel (eluting with 5:95 ethyl acetate/hexanes) which resulted in 1.8 g of an orange powder which was used directly in the next step.

reactant | hydrogen sulfide | ˜2 mL | S | H2S
reactant | 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-thiobenzimidic acid ethyl ester | 6.8 mmol, 2.8 grams | C(C)SC(C1=C(C(=CC=C1)Cl)CCC1=C(C=CC(=C1)Br)OC)=N | C18H19BrClNOS
reactant | HCl ether | 13.6 mmol, 1.0 M, 13.6 mL | Cl.CCOCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-[2-(5-Bromo-2-methoxy-phenyl)-ethyl]-3-chloro-dithiobenzoic acid ethyl ester | 1.8 g | C(C)SC(C1=C(C(=CC=C1)Cl)CCC1=C(C=CC(=C1)Br)OC)=S | C18H18BrClOS2
